US20010025109A1
19.8 g (0.10 mol) of O-acetyl-L-homoserine hydrochloride are dissolved in 200 ml of water, and 35.0 g (0.42 mol) of sodium hydrogen carbonate are added at 0° C. 19.2 g (0.11 mol) of benzyl chloroformate are then added and stirring is carried out for 3 hours at room temperature. The mixture is then extracted twice using 100 ml of methyl isobutyl ketone each time, and the aqueous phase is adjusted to pH=2 using concentrated hydrochloric acid and extracted twice using 150 ml of methyl isobutyl ketone (MIBK) each time. The combined organic phases are washed with 50 ml of saturated sodium chloride solution and concentrated in vacuo. 27.5 g (93%) of N-benzyloxy-carbonyl-O-acetyl-L-homoserine are obtained in the form of a colourless oil.

reactant | O-acetyl-L-homoserine hydrochloride | 0.10 mol, 19.8 g | Cl.C(C)(=O)OCC[C@H](N)C(=O)O
reactant | sodium hydrogen carbonate | 0.42 mol, 35.0 g | C(O)([O-])=O.[Na+]
reactant | benzyl chloroformate | 0.11 mol, 19.2 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 200 ml | O | H2O
product | N-benzyloxy-carbonyl-O-acetyl-L-homoserine | 27.5 g, 93% | C(C1=CC=CC=C1)ON[C@@H](C(COC(C)=O)=C=O)C(=O)O | C14H15NO6
